US08232278B2
Synthesis of 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one
A suspension of 2-amino-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one (1.96 g, 10 mmol) in acetic anhydride (200 ml) was refluxed for 2 hours till a clear solution was obtained. The solvents were evaporated in vacuo till crystallization started. The precipitate was filtered off and dried under vacuum yielding the pure title compound (2 g, 80%) which was characterised as follows:

reactant | 2-amino-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one | 10 mmol, 1.96 g | NC=1NC(C2=C(N1)C=CC(=N2)Cl)=O | C7H5ClN4O
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one | 2 g, 80% | C(C)(=O)NC=1NC(C2=C(N1)C=CC(=N2)Cl)=O | C9H7ClN4O2
